US04783453
An ambient temperature mixture of benzyl 2-azido-carbapen-2-em-3-carboxylate (7.7 mg, 27 micromol) and palladium on calcium carbonate poisoned with lead (12.8 mg) in dry dioxane (0.80 ml) containing t-butanol (50 microliter) was stirred while hydrogen was bubbled through for 20 min. The mixture was filtered and the solid washed with diethyl ether (3×0.5 ml). The combined filtrate and washes were concentrated to 0.5 ml under vacuum, and the residue was chromatographed on one 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plate developed with 1:1 (v/v) toluene-ethyl actetate. The band centered at Rf 0.2 was eluted with ethyl acetate and the eluate was evaporated under vacuum to provide 2.6 mg (37%) benzyl 2-amino-carbapen-2-em-3-carboxylate as a light yellow glass; I.R. (neat film): 3450, 3330, 1780, 1690 cm-1 ; NMR (CDCl3): δ 2.81 dd (J1 =4 Hz, J2 =16 Hz, 1H), 2.93 m (2H), 3.21 dd (J1 =5 Hz, J2 =16 Hz, 1H), 5.25 d (J=13 Hz, 1H), 5.32 d (J=13 Hz, 1H), 7.37 m (5H).

reactant | benzyl 2-azido-carbapen-2-em-3-carboxylate | 27 micromol, 7.7 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C14H12N4O3
reactant | t-butanol | 50 microliter | C(C)(C)(C)O | C4H10O
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 0.80 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on calcium carbonate | [Pd] | Pd
product | benzyl 2-amino-carbapen-2-em-3-carboxylate | 2.6 mg, 37% | NC=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C14H14N2O3
